US06166016
3.8 ml of n-pentanoic acid chloride was added to 50 ml of an anhydrous pyridine solution containing 5.0 g of methyl 3-aminothiophene-2-carboxylate at 0° C. The mixture was stirred at 0° C. for 1 hour and further stirred at room temperature for 2 hours. The reaction mixture was concentrated, diluted with ethyl acetate and washed with 1N chloric acid, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution in this order. Ethyl acetate was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (elution with n-hexane:ethyl acetate=5:1) to provide 7.0 g of methyl 3-pentanoylaminothiophene-2-carboxylate as a colorless oily compound.

reactant | n-pentanoic acid chloride | 3.8 ml | C(CCCC)(=O)Cl | C5H9ClO
reactant | methyl 3-aminothiophene-2-carboxylate | 5.0 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | methyl 3-pentanoylaminothiophene-2-carboxylate | 7.0 g | C(CCCC)(=O)NC1=C(SC=C1)C(=O)OC | C11H15NO3S
